US05703106
Crude (±)-N-diphenylmethylene-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester (280 mg) was treated with p-toluenesulfonic acid monohydrate (100 mg) in acetonitrile (35 ml) and water (3.5 ml) at ambient temperature for 3.5 hours. After concentration the residue is extracted with ether and 1N sodium hydroxide, washed with brine, dried, and concentrated to give crude 3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester.

reactant | (±)-N-diphenylmethylene-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | 280 mg | C(C)OC([C@@H](N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=NO1)=O | C27H24N2O3
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
solvent | water | 3.5 ml | O | H2O
product | 3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | C(C)OC([C@@H](N)CC1=CC=C(C=C1)C1=CC=NO1)=O | C14H16N2O3
